US05905088
(a) Preparation of 2-bromoacetyl-5-bromothiophene
A solution of bromine (2.9 ml, 56.5 mmol) in 30 ml of CH2Cl2 was added dropwise to a solution of 2-acetyl-5-bromothiophene (10 g, 49 mmol), dioxane (55 ml) and ethyl ether (55 ml). The stirring was continued for 1 h and then the reaction medium was poured into a water/ice mixture and extracted with ethyl ether. The organic phase was washed twice with water, dried over magnesium sulfate and concentrated in a rotary evaporator under vacuum.

reactant | bromine | 56.5 mmol, 2.9 ml | BrBr | Br2
reactant | 2-acetyl-5-bromothiophene | 49 mmol, 10 g | C(C)(=O)C=1SC(=CC1)Br | C6H5BrOS
reactant | dioxane | 55 ml | O1CCOCC1 | C4H8O2
reactant | ethyl ether | 55 ml | C(C)OCC | C4H10O
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-bromoacetyl-5-bromothiophene | BrCC(=O)C=1SC(=CC1)Br | C6H4Br2OS
